US03956310
4.4 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 20 parts of allyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 100 parts of dry benzene were heated at reflux for 18 hours. The solvent was evaporated in vacuo and the residue was stirred in 100 parts of water for 12 hours. This phase was extracted with chloroform and the extracts washed with brine and dried over magnesium sulphate. Evaporation of the solvent in vacuo afforded an oil which was chromatographed on an alumina column to give 14-allylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one which gave the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | allyl isocyanate | C(C=C)N=C=O | C4H5NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-allylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C(C=C)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C17H27N3O2
